US07863305B2
To a solution of 3-(7-methoxy-indol-1-yl)-3-pyridin-3-yl-propionic acid methyl ester (0.290 g) in THF (10 ml) was added a solution of lithium aluminum hydride (1 M in THF, 1 ml) at 0° C. The reaction mixture was stirred for 2 hours at room temperature. To the solution was added sodium sulfate decahydrate (1 g) and stirring was continued until no more bubbling was observed. The suspension was filtered through Celite and the filtrate was evaporated to dryness. The residue was purified by chromatography on silica gel eluting with ethyl acetate to give 3-(7-methoxy-indol-1-yl)-3-pyridin-3-yl-propan-1-ol (0.178 g) as an oil, (M+H=283).

reactant | 3-(7-methoxy-indol-1-yl)-3-pyridin-3-yl-propionic acid methyl ester | 0.290 g | COC(CC(C=1C=NC=CC1)N1C=CC2=CC=CC(=C12)OC)=O | C18H18N2O3
reactant | lithium aluminum hydride | 1 M, 1 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | 1 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(7-methoxy-indol-1-yl)-3-pyridin-3-yl-propan-1-ol | 0.178 g | COC=1C=CC=C2C=CN(C12)C(CCO)C=1C=NC=CC1 | C17H18N2O2
